US08975254B2
b) (S)—N-(1-(3-(3-chloro-4-cyano-2-methylphenyl)-1H-pyrazol-1-yl)propan-2-yl)-2-(2-methoxyethylamino)oxazole-4-carboxamide
(S)-2-bromo-N-(1-(3-(3-chloro-4-cyano-2-methylphenyl)-1H-pyrazol-1-yl)-propan-2-yl)oxazole-4-carboxamide (0.180 g, 0.401 mmol) was added into a microwave vial with dry pyridine as a solvent. The mixture was bubbled with nitrogen. 2-Methoxyethylamine (0.129 ml, 2.407 mmol) was added and the mixture was heated with microwaves at 120° C. for 2 h. The product was purified by Flash-chromatography. Yield 15.65%. 1H-NMR (400 MHz; CDCl3): δ 1.24 (d, 3H), 2.58 (s, 3H), 3.39 (s, 3H), 3.44 (t, 2H), 3.51 (t, 2H), 4.30 (dd, 1H), 4.40 (dd, 1H), 4.51-4.60 (m, 1H), 5.07 (t, 1H), 6.44 (d, 1H), 7.40 (d, 1H), 7.51 (d, 1H), 7.52-7.58 (m, 2H), 7.67 (s, 1H).

reactant | (S)-2-bromo-N-(1-(3-(3-chloro-4-cyano-2-methylphenyl)-1H-pyrazol-1-yl)-propan-2-yl)oxazole-4-carboxamide | 0.401 mmol, 0.180 g | BrC=1OC=C(N1)C(=O)N[C@H](CN1N=C(C=C1)C1=C(C(=C(C=C1)C#N)Cl)C)C | C18H15BrClN5O2
reactant | 2-Methoxyethylamine | 2.407 mmol, 0.129 ml | COCCN | C3H9NO
solvent | pyridine | N1=CC=CC=C1 | C5H5N
product | (S)—N-(1-(3-(3-chloro-4-cyano-2-methylphenyl)-1H-pyrazol-1-yl)propan-2-yl)-2-(2-methoxyethylamino)oxazole-4-carboxamide | Yield 15.65% | ClC=1C(=C(C=CC1C#N)C1=NN(C=C1)C[C@H](C)NC(=O)C=1N=C(OC1)NCCOC)C | C21H23ClN6O3
